US04440779
Step 6: Preparation of 7-Chloro-4,10 dihydro-1-methyl-10-oxo-1H-[1]benzothiepino [4,3-b]pyrrole-2-acetic acid
Ethyl 7-chloro-4,10 dihydro-1-methyl-10-oxo-1H-[1]benzothiepino[4,3-b]pyrrole-2-acetate (73 mg, 0.21 mmol) is dissolved in hot ethanol (2 ml) and 2.5 N aqueous sodium hydroxide (1 ml, 2.5 mmol) is added. The mixture is heated to 70° and stirred until it becomes homogeneous. Stirring is continued an additional fifteen minutes, then the mixture is cooled and treated with 2.5 N aqueous HCl (1.5 ml) to precipitate 58 mg (86%) of 7-chloro-4,10 dihydro-1-methyl-10-oxo-1H-[1]benzothiepino [4,3-b]pyrrole-2-acetic acid, m.p. 202° (dec).

reactant | Ethyl 7-chloro-4,10 dihydro-1-methyl-10-oxo-1H-[1]benzothiepino[4,3-b]pyrrole-2-acetate | 0.21 mmol, 73 mg | ClC1=CC2=C(C(C=3N(C(=CC3CS2)CC(=O)OCC)C)=O)C=C1 | C17H16ClNO3S
reactant | sodium hydroxide | 2.5 mmol, 2.5 N, 1 ml | [OH-].[Na+]
reactant | HCl | 2.5 N, 1.5 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-Chloro-4,10 dihydro-1-methyl-10-oxo-1H-[1]benzothiepino [4,3-b]pyrrole-2-acetic acid | ClC1=CC2=C(C(C=3N(C(=CC3CS2)CC(=O)O)C)=O)C=C1 | C15H12ClNO3S
